US08476300B2
Dissolve 1-[2-[4-[[6-methoxy-2-(5-methylsulfonyl-3-thienyl)-1-naphthyl]oxy]phenoxy]ethyl]piperidine (0.3 g, 0.55 mmol) in ethyl acetate. Add ether (10 mL) and cool to 0° C. Add hydrochloric acid (2M in ether, 0.4 mL, 0.84 mmol) and collect the resulting precipitate by filtration. Dissolve the solids in ethylacetate and concentrate to obtain 1-[2-[4-[[6-methoxy-2-(5-methylsulfonyl-3-thienyl)-1-naphthyl]oxy]phenoxy]ethyl]piperidine hydrochloride (0.35 g, 0.55 mmol).

reactant | 1-[2-[4-[[6-methoxy-2-(5-methylsulfonyl-3-thienyl)-1-naphthyl]oxy]phenoxy]ethyl]piperidine | 0.55 mmol, 0.3 g | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(OCCN2CCCCC2)C=C1)C1=CSC(=C1)S(=O)(=O)C | C29H31NO5S2
reactant | ether | 10 mL | CCOCC | C4H10O
reactant | hydrochloric acid | 0.84 mmol, 2M, 0.4 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-[4-[[6-methoxy-2-(5-methylsulfonyl-3-thienyl)-1-naphthyl]oxy]phenoxy]ethyl]piperidine hydrochloride | 0.55 mmol, 0.35 g | Cl.COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(OCCN2CCCCC2)C=C1)C1=CSC(=C1)S(=O)(=O)C | InChI=1S/C29H31NO5S2.ClH/c1-33-25-11-13-26-21(18-25)6-12-27(22-19-28(36-20-22)37(2,31)32)29(26)35-24-9-7-23(8-10-24)34-17-16-30-14-4-3-5-15-30;/h6-13,18-20H,3-5,14-17H2,1-2H3;1H
